US07910595B2
A mixture of 4-chloro-3-nitrobenzoyl chloride was reacted with 3-Fluoro-phenylamine to produce 4-Chloro-N-(3-fluoro-phenyl)-3-nitro-benzamide according to the procedure of Example 10A, which was treated sequentially using the procedures from Examples 22A and 22B to provide the title product.

reactant | 4-chloro-3-nitrobenzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | 3-Fluoro-phenylamine | FC=1C=C(C=CC1)N | C6H6FN
product | 4-Chloro-N-(3-fluoro-phenyl)-3-nitro-benzamide | ClC1=C(C=C(C(=O)NC2=CC(=CC=C2)F)C=C1)[N+](=O)[O-] | C13H8ClFN2O3
